US08222219B2
A solution of 1,3-dibromobenzene (3.7 g) in tetrahydrofuran (25 ml) was cooled to −78° C. under argon atmosphere, and thereto was added dropwise n-butyl lithium (2.44 M hexane solution, 5.55 ml). The reaction mixture was stirred at the same temperature for 10 minutes, and thereto was added dropwise a solution of 5-ethyl-2-thiophenecarboxaldehyde (2.0 g) in tetrahydrofuran (10 ml). The mixture was stirred at the same temperature for 30 minutes, and thereto was added a saturated ammonium chloride solution, and the reaction mixture was warmed to room temperature. The mixture was extracted with ethyl acetate, and the extract was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=97:3-85:15) to give 3-bromophenyl-5-ethyl-2-thienylmethanol (2.97 g) as a pale yellow syrup. APCI-Mass m/Z 279/281 (M+H—H2O). (2) The above 3-bromophenyl-5-ethyl-2-thienylmethanol (2.90 g) was dissolved in dichloromethane (38 ml), and the mixture was cooled to −78° C. under argon atmosphere. To the mixture were added triethylsilane (6.18 ml) and boron trifluoride•diethyl ether complex (2.45 ml), and the mixture was gradually warmed to room temperature over a period of one hour. The mixture was basified with a saturated aqueous sodium hydrogen carbonate solution, and the dichloromethane layer was collected, dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane) to give the desired 3-bromo-(5-ethyl-2-thienylmethyl)benzene (2.57 g) as a colorless syrup. APCI-Mass m/Z 281/283 (M+H).

reactant | 1,3-dibromobenzene | 3.7 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyl lithium | 2.44 M, 5.55 ml | C(CCC)[Li]
reactant | 5-ethyl-2-thiophenecarboxaldehyde | 2.0 g | C(C)C1=CC=C(S1)C=O | C7H8OS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-bromophenyl-5-ethyl-2-thienylmethanol | 2.97 g | BrC=1C=C(C=CC1)C(O)C=1SC(=CC1)CC | C13H13BrOS
